US07786165B2
A solution of ethyl 3-(2,6-difluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (0.425 g, 1.03 mmol), {4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxyphenyl}methanol (0.315 g, 0.790 mmol) and triphenylphosphine (0.312 g, 1.19 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature, diethyl azodicarboxylate (40% toluene solution, 0.540 mL, 1.19 mmol) was added and the mixture was stirred for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (20%-80% ethyl acetate/hexane) to give ethyl 3-(4-{{4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}[(2-nitrophenyl)sulfonyl]amino}-2,6-difluorophenyl)propanoate as a yellow oil. To a solution of the obtained oil and mercaptoacetic acid (0.169 g, 1.84 mmol) in N,N-dimethylformamide (15 mL) was added lithium hydroxide monohydrate (0.154 g, 3.68 mmol), and the mixture was stirred at room temperature for 2 hr. Ethyl acetate was added to the residue, and the mixture was washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate/hexane) to give the title compound (0.431 g, yield 90%, 2 steps) as a yellow oil.

reactant | ethyl 3-(2,6-difluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.03 mmol, 0.425 g | FC1=C(C(=CC(=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F)CCC(=O)OCC | C17H16F2N2O6S
reactant | {4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxyphenyl}methanol | 0.790 mmol, 0.315 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(C=C1)CO)OC(C)C | C26H26N2O2
reactant | triphenylphosphine | 1.19 mmol, 0.312 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.19 mmol, 0.540 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-{{4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}[(2-nitrophenyl)sulfonyl]amino}-2,6-difluorophenyl)propanoate | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(CN(C2=CC(=C(C(=C2)F)CCC(=O)OCC)F)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=C1)OC(C)C | C43H40F2N4O7S
